US04384144
A 3.06 g quantity (0.0212 mol) of methyl ether of 2,5-diketohexanol-1 is added to 15 ml of dioxane containing 5% of triethylamine, and the mixture is heated at 100° C. for 2 hours. The reaction product is carefully neutralized with acetic acid and thereafter distilled at reduced pressure, giving 2-methoxy-3-methyl-cyclopentenone, the desired product, in a yield of 88%, b.p. 84°-85° C./18 mm Hg.

reactant | methyl ether | 0.0212 mol | COC | C2H6O
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methoxy-3-methyl-cyclopentenone | COC=1C(CCC1C)=O | C7H10O2
